Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Placement 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of dementia, asthma, hypertension, 
and hyperlipidemia who accompanied his wife to the ___. As the 
patient's wife is being admitted, it was felt that the patient 
was unsafe to return home alone. Patient being admitted for 
placement.  
 In the ___, initial VS were 98.4 64 119/70 14 97% RA. No labs or 
imaging was performed.  
 On arrival to the floor, patient without any significant 
complaints.  

 
Past Medical History:
 - Dementia  
 - Asthma  
 - Hypercholesterolemia  
 - Hypertension  
 - Umbilical hernia  
 - Glaucoma  
 
Social History:
___
Family History:
 Mother died of stroke.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GENERAL: NAD, disheveled  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, no upper teeth, poor lower dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, ___ LLSB systolic murmur  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: AAOx3.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
VS: 98.9 ___ 16 100/RA
GENERAL: NAD, answering questions appropriately 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, no upper teeth, poor lower dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, ___ LLSB systolic murmur  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: AAOx3.  
SKIN: warm and well perfused

 
Pertinent Results:
Not Applicable
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of HTN and dementia who was 
admitted to the hospital when his wife (primary caregiver) 
required admission.  He had no acute medical problems requiring 
hospital admission but no safe discharge care plan was able to 
be identified in the Emergency Room. He was admitted for 
custodial care overnight and then discharged to the care of his 
son. 
 
Medications on Admission:
1. Amlodipine 5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Hydrochlorothiazide 12.5 mg PO DAILY 
4. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID:PRN itchy 
arms 
5. Vitamin D Dose is Unknown  PO DAILY 
6. Aspirin 81 mg PO DAILY 
7. docosahexanoic acid-epa unknown  oral DAILY 

 
Discharge Medications:
No changes were made to medication regimen
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
hypertension
dementia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital overnight until a safe plan 
was determined while your wife is in the hospital. You will be 
discharged to the care of family.

No changes were made to your medications. Please continue taking 
your medications as previously prescribed.

Please continue to try to quit smoking.

We wish you the best,
- Your ___ Medicine Team
 
Followup Instructions:
___